US04138564
7,8,9,10-Tetrahydro-5H-pyrazino-[1,2-a]pyrido[3,2-e]pyrazin-6(6aH)-one
A mixture of 1.5 g. of 8-carbobenzoxy-7,8,9,10-tetrahydro-5H-pyrazino[1,2-a]pyrido[3,2-e]pyrazin-6(6aH)-one, 1 g. of 10% palladium on carbon, and 150 ml. of ethanol is hydrogenated at 45 psi for 2 hours. The catalyst is filtered and the filtrate is concentrated. The residue is dissolved in a small amount of ethanol and ethanolic hydrogen chloride is added. Filtration of the precipitated salt gives 0.72 g. of the title product, m.p. 270° dec. Recrystallization from ethanol-water gives 0.60 g., m.p. 278°-279°.

reactant | 8-carbobenzoxy-7,8,9,10-tetrahydro-5H-pyrazino[1,2-a]pyrido[3,2-e]pyrazin-6(6aH)-one | C(=O)(OCC1=CC=CC=C1)N1CC2N(C3=C(NC2=O)C=CC=N3)CC1 | C18H18N4O3
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 7,8,9,10-Tetrahydro-5H-pyrazino-[1,2-a]pyrido[3,2-e]pyrazin-6(6aH)-one | N1=CC=CC=2NC(C3N(C21)CCNC3)=O | C10H12N4O
